US08791123B2
(R)-3-(tert-butyldimethylsilyloxy)-5-(3-fluorophenyl)-3,4-dihydro-2H-pyrrole (6.21 g, 21.2 mmol) was dissolved in methanol (100 mL) and AcOH (10 mL). The reaction was cooled to −78° C. and the sodium borohydride (2.00 g, 52.9 mmol) was slowly added in small portions. The reaction was allowed to warm to ambient temperature overnight. The reaction mixture was concentrated and the residue was diluted with EtOAc and 1N NaOH. Additional NaOH pellets were added to basify the aqueous layer. The organic layer was separated and the aqueous layer was extracted with EtOAc. The combined organic layers were dried with MgSO4, filtered and concentrated. The residual oil was purified by silica chromatography eluting with 5% MeOH/EtOAc to afford (2R,4R)-4-(tert-butyldimethylsilyloxy)-2-(3-fluorophenyl)pyrrolidine (4.82 g, 77.1%) as a brown oil. MS (apci) m/z=296.1 (M+H).

reactant | (R)-3-(tert-butyldimethylsilyloxy)-5-(3-fluorophenyl)-3,4-dihydro-2H-pyrrole | 21.2 mmol, 6.21 g | [Si](C)(C)(C(C)(C)C)O[C@H]1CN=C(C1)C1=CC(=CC=C1)F | C16H24FNOSi
reactant | sodium borohydride | 52.9 mmol, 2.00 g | [BH4-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
product | (2R,4R)-4-(tert-butyldimethylsilyloxy)-2-(3-fluorophenyl)pyrrolidine | 4.82 g, 77.1% | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@@H](NC1)C1=CC(=CC=C1)F | C16H26FNOSi
